US04709053
(a) Preparation of 3-carbomethoxy-4-(2,3-dichlorophenyl)pyrrole
10.7 g of 2,3-dichlorophenacylamine hydrochloride and 6 g of methyl 3-dimethylaminoacrylate are heated for 2 hours under reflux in 120 ml of ethanol. Then a solution of 4 g of sodium ethylate in 40 ml of ethanol is added dropwise and the reaction mixture is heated for another hour under reflux. The reaction mixture is then concentrated by evaporation and the oily residue is purified by column chromatography (silica gel; elution with a 3:1 mixture of toluene/ethyl acetate. Melting point: 205°-206° C.

reactant | 2,3-dichlorophenacylamine hydrochloride | 10.7 g | Cl.ClC1=C(C(CN)=O)C=CC=C1Cl
reactant | methyl 3-dimethylaminoacrylate | 6 g | CN(C=CC(=O)OC)C | C6H11NO2
reactant | sodium ethylate | 4 g | CC[O-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-carbomethoxy-4-(2,3-dichlorophenyl)pyrrole | C(=O)(OC)C1=CNC=C1C1=C(C(=CC=C1)Cl)Cl | C12H9Cl2NO2
